US09029399B2
Preparation of Intermediate 6-Bromo-2-fluoro-benzo[b]thiophene (I-25d)
Using analogous reaction condition and reagents as described Example 20 for the preparation of I-20a, 6-bromo-benzo[b]thiophene (I-25c: 0.5 g, 2.347 mmol) in dry THF was reacted with N-fluorobenzenesulfonimide (1.33 g, 4.22 mmol), n-butyl lithium (1.76 ml, 3.52 mmol), diisopropyl amine (0.57 ml, 3.99 mmol) to afford crude product. Purification by column chromatography on silica gel (100% hexane) afforded 176 mg of the product (33% yield).

reactant | 6-bromo-benzo[b]thiophene | 2.347 mmol, 0.5 g | BrC=1C=CC2=C(SC=C2)C1 | C8H5BrS
reactant | N-fluorobenzenesulfonimide | 4.22 mmol, 1.33 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | n-butyl lithium | 3.52 mmol, 1.76 ml | C(CCC)[Li]
reactant | diisopropyl amine | 3.99 mmol, 0.57 ml | C(C)(C)NC(C)C | C6H15N
solvent | THF | C1CCOC1 | C4H8O
product | 6-Bromo-2-fluoro-benzo[b]thiophene | 176 mg, 33% yield | BrC=1C=CC2=C(SC(=C2)F)C1 | C8H4BrFS
